US09283229B2
A solution of 3-bromo-5-ethoxy-4-hydroxybenzaldehyde (1.0 g, 4.1 mmol) in DMF (10 mL) was cooled at 0° C., NaH (180 mg, 4.5 mmol) was added, and the mixture was stirred for 15 minutes. MOM-Cl (360 mg, 4.5 mmol) was added, and the mixture was warmed to room temperature in two hours. TLC (PE:EtOAc=5:1) indicated that the starting material was consumed. Ice water was added to quench the reaction, and aqueous layer was extracted with EtOAc (30 mL×3). The combined organic layer was washed with brine (20 mL), dried over Na2SO4, filtered, concentrated, and purified by column chromatograph to give 3-bromo-5-ethoxy-4-(methoxymethoxy)benzaldehyde (0.7 g, yield: 59.3%).

reactant | 3-bromo-5-ethoxy-4-hydroxybenzaldehyde | 4.1 mmol, 1.0 g | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
reactant | NaH | 4.5 mmol, 180 mg | [H-].[Na+]
reactant | MOM-Cl | 4.5 mmol, 360 mg | C(OC)Cl | C2H5ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-ethoxy-4-(methoxymethoxy)benzaldehyde | 0.7 g, yield: 59.3% | BrC=1C=C(C=O)C=C(C1OCOC)OCC | C11H13BrO4
